US05985901
4-Pyridin-3-yl-benzaldehyde
To a solution of (4-pyridin-3-yl-phenyl)-methanol (20 mg in 1.0 mL methylene chloride) was added 25 mg 4-methylmorpholine N-oxide, 20 mg 4 Å molecular sieves and 4 mg tetrapropylammonium perruthenate and the mixture stirred at room temperature. After 2 hours, the mixture was applied to a silica gel column and purified by flash chromatography (hexane:ethyl acetate, 40:60; then 60:40) to give the title compound (11.2 mg).

reactant | (4-pyridin-3-yl-phenyl)-methanol | 1.0 mL, 20 mg | N1=CC(=CC=C1)C1=CC=C(C=C1)CO | C12H11NO
reactant | 4-methylmorpholine N-oxide | 25 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | tetrapropylammonium perruthenate | 4 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-Pyridin-3-yl-benzaldehyde | 11.2 mg | N1=CC(=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
